* G:\My Drive\Graduate Reserach\LTSpice\3-Level\Buck_Boost_Vout.asc
V1 N011 0 12
M1 N006 NC_01 N007 N007 NMOS
M2 N007 NC_02 0 0 NMOS
L1 N008 N009 22µ
M3 N001 NC_03 N002 N002 NMOS
M4 N002 NC_04 N009 N009 NMOS
M5 N009 NC_05 N012 N012 NMOS
M6 N012 NC_06 0 0 NMOS
C3 N010 N014 2µ
C1 N005 N012 9.3µ
R1 N008 N007 0.0024
V2 N001 N004 4
R2 N004 N010 5m
R3 N010 N013 5m
V3 N013 0 4
C2 N003 N010 2µ
R4 N001 N003 2m
R5 N014 0 2m
R6 N002 N005 2.2m
R7 N006 N011 1m
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
